US04125729
Ethyl [p-(p-nitrophenoxy)phenyl]acetate
A solution of 27.3 g of [p-(p-nitrophenoxy)phenyl]acetic acid in 270 ml of ethanol is cooled to 0° C and saturated with dry HCl gas over 3 1/2 hours. The resulting deep red solution is heated to reflux and maintained at reflux overnight. A yellow crystalline solid separates on cooling. The entire mixture is poured into 500 ml of water and extracted with three 200 ml portions of benzene. The combined extracts are washed with two 150 ml portions of water, two 150 ml portions of saturated NaHCO3, 150 ml of saturated brine, and dried over MgSO4. Evaporation of the solvent at reduced pressure affords an oil which yields yellow crystals from 50 ml of ethanol, mp 70.5°-73° C. Recrystallization from ethanol affords yellow prisms, mp 70.5°-73° C.

reactant | [p-(p-nitrophenoxy)phenyl]acetic acid | 27.3 g | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)CC(=O)O)C=C1 | C14H11NO5
reactant | HCl | Cl | ClH
reactant | water | 500 ml | O | H2O
reactant | ethanol | 270 ml | C(C)O | C2H6O
reactant | ethanol | 50 ml | C(C)O | C2H6O
product | Ethyl [p-(p-nitrophenoxy)phenyl]acetate | [N+](=O)([O-])C1=CC=C(OC2=CC=C(C=C2)CC(=O)OCC)C=C1 | C16H15NO5
